US07517875B2
After dissolving 4-fluoro-3-nitrobenzoic acid methyl ester (507.3 mg, 2.55 mmol) in tetrahydrofuran (1 ml), methylamine (2.0 M tetrahydrofuran solution, 2.55 ml, 5.09 mmol) was added in an ice bath, and the mixture was stirred at room temperature overnight; The reaction mixture was concentrated under reduced pressure and dissolved in ethyl acetate (20 ml), and after washing in saturated aqueous sodium bicarbonate and brine, it was dried over anhydrous magnesium sulfate. It was then concentrated under reduced pressure, the obtained residue was dissolved in a methylamine-tetrahydrofuran solution (2.0 M, 3 ml), and upon sealing, the solution was stirred at 50° C. for 5 hours. The reaction mixture was concentrated under reduced pressure and dissolved in ethyl acetate (30 ml), and the solution was washed with saturated aqueous sodium bicarbonate and brine and then dried over anhydrous magnesium sulfate. The dried product was concentrated under reduced pressure to obtain 4-methylamino-3-nitro-benzoic acid methyl ester. The compound was identified by LC-MS.

reactant | 4-fluoro-3-nitrobenzoic acid methyl ester | 2.55 mmol, 507.3 mg | COC(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O | C8H6FNO4
reactant | methylamine | 5.09 mmol, 2.0 M, 2.55 ml | CN | CH5N
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-methylamino-3-nitro-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC)[N+](=O)[O-])=O | C9H10N2O4
